US08217047B2
A solution of Fmoc-Gly-OH (from Bachem) (1.66 g., 5.6 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (from Aldrich, 39391) (1.1 g., 5.7 mmol), 1-hydroxybenzotriazole (from Aldrich, 54804) (0.76 g., 5.6 mmol) and triethylamine (0.4 mL, 2.8 mmol) in dimethylformamide (50 mL) was stirred at room temperature for 1 hour. A solution of 2-amino-3-biphenyl-4-yl-succinic acid dimethyl ester hydrochloride (0.98 g., 2.8 mmol) in dimethylformamide (10 mL) was added and the reaction mixture was stirred at room temperature for a further 14 hours. The solvent was removed in vacuo and the residue partitioned between ethylacetate (100 mL) and sodium bicarbonate (100 mL, saturated solution in water). The aqueous layer was washed with ethylacetate (2×100 mL), the organics combined, dried over magnesium sulphate and concentrated in vacuo to afford a crude residue. The crude product was purified using flash chromatography (SiO2) eluting with ethylacetate/isohexane (3:1) to afford 2-biphenyl-4-yl-3-[2-(9H-fluoren-9-ylmethoxycarbonylamino)-acetylamino]-succinic acid dimethyl ester as a white crystalline solid (0.89 g., 54% yield). 1HNMR (CDCl3) δH (ppm); 3.71-3.73 (m, 7H), 3.81 0.2H (d, CH J=5.6 Hz), 3.86, 0.3H (d, CH J=5.8 Hz), 3.9, 0.3H (d, CH J=5.3 Hz), 3.94, 0.2H (d, CH J =5.8 Hz), 4.13-4.24 (m, 1H), 4.28-4.44 (m, 2.5H), 4.5 (d, 0.5H J=4.4 Hz), 5.1-5.4 (m, 2H), 6.4 (d, NH J=8.5 Hz), 7.19 (d, NH J=9.4 Hz), 7.23-7.34, 5H (m, Ar—H), 7.35-7.42, 4H (m, Ar—H), 7.47-7.60, 6H (m, Ar—H), 7.74, 2H (d, Ar—H J=7.6 Hz); LCMS analysis (solvent MeCN/H2O/0.1% HCO2H, 5-95% gradient/H2O 2.5 min, 95% 4 min., Phenomenex C18 reverse phase, flow rate 1 mL/min.) HPLC retention times 5.33 and 5.47 min. (diastereoisomers); mass found 593 (M+H).

reactant | Fmoc-Gly-OH | 5.6 mmol, 1.66 g | N(CC(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C17H15NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 5.7 mmol, 1.1 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 5.6 mmol, 0.76 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 2.8 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-3-biphenyl-4-yl-succinic acid dimethyl ester hydrochloride | 2.8 mmol, 0.98 g | Cl.COC(C(C(C(=O)OC)C1=CC=C(C=C1)C1=CC=CC=C1)N)=O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-biphenyl-4-yl-3-[2-(9H-fluoren-9-ylmethoxycarbonylamino)-acetylamino]-succinic acid dimethyl ester | 54% yield | COC(C(C(C(=O)OC)NC(CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C35H32N2O7
